US04183741
To a stirred and cooled solution of N-amino-pyridinium chloride (26.1 g) and 2-cyanopyridine (31.2 g) in ethanol (100 ml) was added a solution of sodium hydroxide (8.0 g) in water (50 ml) over a period of one hour. The mixture was then left at room temperature for 72 hours, after which time the ethanol was removed in vacuo and the residue extracted with chloroform. The chloroform extract was dried and evaporated. The residue, on recrystallisation from acetone, yielded 14.3 g of 2-(2-pyridyl)-s-triazolo[1,5-a]pyridine.

reactant | N-amino-pyridinium chloride | 26.1 g | [Cl-].N[N+]1=CC=CC=C1
reactant | 2-cyanopyridine | 31.2 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 2-(2-pyridyl)-s-triazolo[1,5-a]pyridine | 14.3 g | N1=C(C=CC=C1)C1=NN2C(C=CC=C2)=N1 | C11H8N4
